US04940710
1-Ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-pyridinyl)-1-piperazinyl]-3-quinolinecarboxylic acid
A mixture of 177 mg of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 342 mg of 2-(3-pyridinyl)piperazine and 5 ml of pyridine was heated at 90°-95° C. in a pressure bottle for 5 hours, then cooled at room temperature, then at 0° C. Ether was added to triturate the mixture, then the solid was collected and washed with methanol and ether. This solid was redissolved in a hot mixture of chloroform and methanol, filtered and triturated with ether. The precipitate was collected and dried in vacuo, giving 110 mg of the desired product.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 177 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | 2-(3-pyridinyl)piperazine | 342 mg | N1=CC(=CC=C1)C1NCCNC1 | C9H13N3
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | Ether | CCOCC | C4H10O
product | 1-Ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-pyridinyl)-1-piperazinyl]-3-quinolinecarboxylic acid | 110 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C=1C=NC=CC1)F)=O)C(=O)O | C21H21FN4O3
